US05183820
6-Fluoro2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A solution of 6-fluoro-2,3,4,5-tetrahydro-2-[[1-(methoxyethyl)-5-methyl -1H-imidazol-4-yl]methyl]-5-methyl-1H-pyrido[4,3-b]indol-1-one and 6-fluoro-2,3,4,5-tetrahydro-2-[[1-(methoxymethyl)-4-methyl-1H-imidazol-5-yl]methyl]-5-methyl-1H-pyrido[4,3-b]indol-1-one (32 mg) in 47% aqueous hydrobromic acid (4 ml) was heated on a steam bath for ca. 2 h. After cooling, the reaction mixture was added to 2N sodium hydroxide (50 ml) and extracted with ethyl acetate (2×50 ml). The combined, dried organic extracts were adsorbed onto silica and purified by FCC eluting with System A (100:8:1) to give the title compound (6.5 mg), m.p. 229°-232°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-2-[[1-(methoxyethyl)-5-methyl -1H-imidazol-4-yl]methyl]-5-methyl-1H-pyrido[4,3-b]indol-1-one | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CN(C3C)CCOC | C20H23FN4O2
reactant | 6-fluoro-2,3,4,5-tetrahydro-2-[[1-(methoxymethyl)-4-methyl-1H-imidazol-5-yl]methyl]-5-methyl-1H-pyrido[4,3-b]indol-1-one | 32 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC3=C(N=CN3COC)C | C19H21FN4O2
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
solvent | hydrobromic acid | 4 ml | Br | BrH
product | 6-Fluoro2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 6.5 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
